US03975528
Potassium phenylthiomethyldithiocarbamate was prepared by the reaction of phenylthiomethyl isothiocyanate and potassium hydrosulfide in a t-butyl alcohol acetone mixture.

reactant | phenylthiomethyl isothiocyanate | C1(=CC=CC=C1)SCN=C=S | C8H7NS2
reactant | potassium hydrosulfide | [SH-].[K+]
solvent | t-butyl alcohol acetone | CC(=O)C.C(C)(C)(C)O
product | Potassium phenylthiomethyldithiocarbamate | C1(=CC=CC=C1)SCNC([S-])=S.[K+] | InChI=1S/C8H9NS3.K/c10-8(11)9-6-12-7-4-2-1-3-5-7;/h1-5H,6H2,(H2,9,10,11);/q;+1/p-1
